US07696231B2
4-{[(4-{[2-(5-Iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]-carbonyl}phenyl)amino]carbonyl}benzoic acid
Into a suspension of methyl 4-{[(4-{[2-(5-iodo-2-oxo-1,2dihydro-3H-indol-3-ylidene)hydrazino]carbonyl}phenyl)amino]carbonyl)benzoate (546 mg, 0.96 mmol) in THF/H2O (2/1) (20 mL) was added NaOH (1.0 N, 4.8 mL). The resulting solution was stirred at rt for 2 hr and quenched with HCl (5 N, 4 mL). A yellow solid precipitated out. Filtration, washing with water (4×5 mL) and drying under vacuo at 70° C. for 20 hrs gave the title compound as a yellow powder (451 mg, 86%) in 97.0% purity by HPLC (MaxPlot detection between 230 and 400 nm).

reactant | methyl 4-{[(4-{[2-(5-iodo-2-oxo-1,2dihydro-3H-indol-3-ylidene)hydrazino]carbonyl}phenyl)amino]carbonyl)benzoate | 0.96 mmol, 546 mg | IC=1C=C2C(C(NC2=CC1)=O)=NNC(=O)C1=CC=C(C=C1)NC(=O)C1=CC=C(C(=O)OC)C=C1 | C24H17IN4O5
reactant | NaOH | 1.0 N, 4.8 mL | [OH-].[Na+]
solvent | THF H2O | 20 mL | C1CCOC1.O
product | 4-{[(4-{[2-(5-Iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]-carbonyl}phenyl)amino]carbonyl}benzoic acid | 451 mg, 86% | IC=1C=C2C(C(NC2=CC1)=O)=NNC(=O)C1=CC=C(C=C1)NC(=O)C1=CC=C(C(=O)O)C=C1 | C23H15IN4O5
